US04222935
2-Bromo-4,6-dinitro-2'-acetylamino-4'-(N,N-diethylamino) azobenzene (2.4 parts), copper (I) iodide (0.95 parts), anhydrous potassium acetate (1.5 parts), formamide (1.8 parts), acetic anhydride (2.0 parts) and n-butyl acetate (44 parts) are mixed together and heated, with stirring, to 110° C. during 15 minutes. The temperature is maintained at 110° C. for 2 hours when reaction is complete. The mixture is cooled to room temperature and poured into petroleum ether (boiling range 60-80° C.) (400 parts). The precipitate is collected, washed with petroleum ether (100 parts) and dried. 2-Cyano-4,6-dinitro-2'-acetylamino-4'-(N,N-diethylamino)azobenzene is obtained in 95% yield.

reactant | 2-Bromo-4,6-dinitro-2'-acetylamino-4'-(N,N-diethylamino) azobenzene | BrC1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])N=NC1=C(C=C(C=C1)N(CC)CC)NC(C)=O | C18H19BrN6O5
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | formamide | C(=O)N | CH3NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | copper (I) iodide | [Cu]I
solvent | n-butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | 2-Cyano-4,6-dinitro-2'-acetylamino-4'-(N,N-diethylamino)azobenzene | 95% yield | C(#N)C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])N=NC1=C(C=C(C=C1)N(CC)CC)NC(C)=O | C19H19N7O5
